Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old male who presented to an osh after 
syncope. Earlier in the day he was working with a table saw 
which launched a piece of wood into his abdomen with some pain 
at that time. He had head strike after syncope with posterior 
head laceration stapled pta. CT of the abdomen showed 
intrabdominal blood with possible omental tear.

 
Past Medical History:
HTN, HLD, ETOH abuse sober x ___ years
bilateral hernia repair when ___ yo
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
Temp: 98.1 HR: 80 BP: 121/87 Resp: 16 O2 Sat: 96
Constitutional: Comfortable
Head / Eyes: posterior scalp laceration, satples in place, no 
HT, No SH, otherwise atraumatic ,
Pupils equal, round and reactive to light, Extraocular muscles 
intact
ENT / Neck: Oropharynx within normal limits
Chest/Resp: Clear to auscultation, no chest wall tenderness
Cardiovascular: Regular Rate and Rhythm, Normal first and second 
heart sounds
GI / Abdominal: soft, minimally tender
Musc/Extr/Back: no back pain, deformity or tenderness
Skin: No rash, Warm and dry
Neuro: Speech fluent GCS 15
Psych: Normal mood, Normal mentation

Discharge Physical Exam:
VS:
HEENT: PERRL. EOMI. Nares patent. Mucus membranes pink/moist. 
laceration posterior occipital with staples. Edges well 
approximated. small amount of dried blood.
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, obese, non-distended. Active Bowel sounds. Mild 
tenderness to palpation LLQ.
EXT: Warm and dry. 2+ ___ pulses. 
N: A&Ox3. Follows commands and moves all extremities equal and 
strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 06:40AM BLOOD WBC-6.5 RBC-3.88* Hgb-10.9* Hct-33.2* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-13.4 RDWSD-41.4 Plt ___
___ 12:44PM BLOOD WBC-9.6 RBC-4.29* Hgb-12.1* Hct-35.9* 
MCV-84 MCH-28.2 MCHC-33.7 RDW-13.4 RDWSD-40.6 Plt ___
___ 08:00AM BLOOD WBC-11.2* RBC-4.25* Hgb-12.0* Hct-35.3* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-13.2 RDWSD-39.8 Plt ___
___ 04:33AM BLOOD WBC-11.3* RBC-4.24* Hgb-12.0* Hct-35.9* 
MCV-85 MCH-28.3 MCHC-33.4 RDW-13.2 RDWSD-40.2 Plt ___
___ 06:40AM BLOOD Glucose-91 UreaN-15 Creat-0.8 Na-140 
K-4.5 Cl-102 HCO3-27 AnGap-11
___ 06:40AM BLOOD Calcium-8.3* Phos-2.8 Mg-2.1
___ 04:42AM BLOOD Glucose-108* Lactate-1.3 Na-133 K-4.2 
Cl-100 calHCO3-43*

 
Brief Hospital Course:
Mr. ___ is a ___ yo M transferred from outside hospital 
with CT scan concerning for intrasbdominal blood with possible 
omental tear after a piece of wood kicked back on table saw into 
his abdomen earlier in the day. He had abdominal discomfort 
after the event and syncope with head strike later that evening 
when standing to void. Fast exam positive. He was 
hemodynamically stable with hemoglobin/hematocrit 12.0/35.9. He 
was made NPO, given IV fluids, and admitted to the floor for 
serial hematocrit monitoring, serial abdominal exams, and 
hemodynamic monitoring. 

On HD2 his hematocrit remained stable at 33.2. Abdominal pain 
was minimal and therefore his diet was gradually advanced to 
regular with good tolerability. Tertiary survey revealed not 
further injuries.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  Follow up appointment 
scheduled in the acute care surgery clinic. 

Incidental finding on CT scan: Right adrenal nodule. Recommend 
outpatient imaging/MRI follow up. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 10 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  Atorvastatin 20 mg PO QPM  
5.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
intrabdominal blood with possible omental tear.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after sustaining an injury to your abdomen. You had a 
CT scan that showed a fluid/blood collection near your intestine 
on the left lower side of your abdomen. Your blood levels were 
closely watched and remained stable. Your diet was slowly 
advanced with good tolerability and your abdominal pain 
improved. You are now doing better and ready to be discharged to 
home with the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___